US06953790B2
Step F: tert-Butyl (3R,6S)-2-oxo-6-phenylazepan-3-ylcarbamate
10% Palladium on carbon (75 mg) was added to a solution of benzyl (3R)-2-oxo-6-phenyl-2,3,4,7-tetrahydro-1H-azepin-3-ylcarbamate (596 mg, 1.77 mmol) and di-tert-butyl dicarbonate (773 mg, 3.54 mmol) in ethyl acetate (30 mL). The reaction vessel is evacuated and back-filled with nitrogen (3×), then back-filled with hydrogen (1 atm). After 2 h, the mixture was filtered and concentrated. Purification by silica gel chromatography (30% ethyl acetate/hexanes→50% ethyl acetate/hexanes) gave the title compound (289 mg).

reactant | benzyl (3R)-2-oxo-6-phenyl-2,3,4,7-tetrahydro-1H-azepin-3-ylcarbamate | 1.77 mmol, 596 mg | O=C1NCC(=CC[C@H]1NC(OCC1=CC=CC=C1)=O)C1=CC=CC=C1 | C20H20N2O3
reactant | di-tert-butyl dicarbonate | 3.54 mmol, 773 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | Palladium on carbon | 75 mg | [Pd] | Pd
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | tert-Butyl (3R,6S)-2-oxo-6-phenylazepan-3-ylcarbamate | 289 mg | O=C1NC[C@@H](CC[C@H]1NC(OC(C)(C)C)=O)C1=CC=CC=C1 | C17H24N2O3
